US05698577
Benzyl (1S,5S)-6-(3,4-dimethoxybenzyl)-4,7-dioxo-2,6-diazabicyclo[3.2.0]heptane-2-carboxylate
3.7 g (47 mmol) of DMSO were dissolved in 50 ml of methylene chloride and cooled to -78° C. under argon. Then, 5 ml (35 mmol) of trifluoroacetic acid anhydride were added dropwise thereto, the mixture was stirred for 15 minutes and a solution of 9.7 g (23.5 mmol) of benzyl (1S,4S,5S)-6(3,4-dimethoxybenzyl)-4-hydroxy-7-oxo-2,6-diazabicyclo[3.2.0]heptane-2-carboxylate in 50 ml of methylene chloride was slowly added dropwise thereto and left to react for 1.5 hours. Before it was left to warm to room temperature, 12 ml (70 mmol) of ethyldiisopropylamine were added thereto. The reaction mixture was then washed once each time with dilute aqueous hydrochloric acid, saturated aqueous sodium hydrogen carbonate solution and saturated aqueous sodium chloride solution and the organic phase was dried over magnesium sulphate. After concentration there were obtained 9.5 g (98%) of a yellow oil.

reactant | DMSO | 47 mmol, 3.7 g | CS(=O)C | C2H6OS
reactant | trifluoroacetic acid anhydride | 35 mmol, 5 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | benzyl (1S,4S,5S)-6(3,4-dimethoxybenzyl)-4-hydroxy-7-oxo-2,6-diazabicyclo[3.2.0]heptane-2-carboxylate | 23.5 mmol, 9.7 g | COC=1C=C(CN2[C@@H]3[C@H](CN([C@@H]3C2=O)C(=O)OCC2=CC=CC=C2)O)C=CC1OC | C22H24N2O6
reactant | ethyldiisopropylamine | 70 mmol, 12 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | Benzyl (1S,5S)-6-(3,4-dimethoxybenzyl)-4,7-dioxo-2,6-diazabicyclo[3.2.0]heptane-2-carboxylate | 9.5 g, 98% | COC=1C=C(CN2[C@@H]3C(CN([C@@H]3C2=O)C(=O)OCC2=CC=CC=C2)=O)C=CC1OC | C22H22N2O6
